US09192603B2
Step 2: N-(5-Bromo-4-(trifluoromethyl)thiazol-2-yl)picolinamide
To a stirred solution of 5-bromo-4-(trifluoromethyl)thiazol-2-amine (0.204 g, 0.826 mmol) ethyldiisopropylamine (0.36 mL, 2.1 mmol) in methylene chloride (4 mL) at 0° C. was added picolinoyl chloride hydrochloride (0.162 g, 0.908 mmol) and the reaction mixture was stirred at room temperature for 15 h. The reaction mixture was diluted with methylene chloride and washed with saturated NaHCO3, dried, filtered and concentrated under vacuum to give the crude product. The residue was purified by column chromatography eluting with ethyl acetate/hexanes 0 to 30% to give the product.

reactant | 5-bromo-4-(trifluoromethyl)thiazol-2-amine | 0.826 mmol, 0.36 mL, 0.204 g | BrC1=C(N=C(S1)N)C(F)(F)F | C4H2BrF3N2S
reactant | picolinoyl chloride hydrochloride | 0.908 mmol, 0.162 g | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-4-(trifluoromethyl)thiazol-2-yl)picolinamide | BrC1=C(N=C(S1)NC(C1=NC=CC=C1)=O)C(F)(F)F | C10H5BrF3N3OS
